US06107329
[(1S)-Benzyl-2-oxo-2-(3-oxo-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester
BOC-L-phenylalanine (530 mg, 2 mmol) and piperazin-2-one (J. Am. Chem. Soc. 62 1202 (1940), 200 mg, 2 mmol) were coupled according to procedure A (2:1 dichloromethane/dimethylformamide reaction solvent, washed with 1 N NaOH after acid washes) and the product used without further purification. Yield 404 mg, 58%.

reactant | BOC-L-phenylalanine | 2 mmol, 530 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | piperazin-2-one | 2 mmol, 200 mg | N1C(CNCC1)=O | C4H8N2O
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dichloromethane dimethylformamide | ClCCl.CN(C=O)C
product | [(1S)-Benzyl-2-oxo-2-(3-oxo-piperazin-1-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(N1CC(NCC1)=O)=O)CC1=CC=CC=C1)=O | C18H25N3O4
